T1 (net6 net61 net61 0) pfet L=2.35E-6 W=2.12E-6
C2 (net88 net52) C=5.4E-6
T3 (0 net122 net122 0) nfet L=1.76E-6 W=6.23E-6
C4 (net81 net97) C=5.1E-8
C5 (net48 net13) C=7.5E-12
C6 (0 net80) C=7.8E-10
T7 (net55 net45 net45 0) pfet L=4.88E-6 W=4.22E-6
T8 (0 0 0 0) nfet L=4.35E-6 W=9.07E-6
R9 (net66 net91) R=8.0E4
C10 (net98 net104) C=3.4E-6
R11 (net58 net9) R=5.8E3
R12 (net121 net32) R=3.5E2
T13 (net25 net30 net30 0) pfet L=9.61E-6 W=7.68E-6
C14 (net118 net18) C=1.9E-7
T15 (vdd! net69 net69 0) nfet L=5.33E-6 W=4.22E-6
T16 (net27 net40 net40 0) nfet L=6.18E-6 W=3.21E-6
R17 (net52 0) R=7.8E1
R18 (net54 0) R=2.3E6
C19 (net93 net3) C=5.5E-6
T20 (net47 net7 net7 0) pfet L=6.54E-6 W=1.91E-6
T21 (net67 net100 net100 0) nfet L=8.32E-6 W=7.24E-6
T22 (net46 net75 net75 0) nfet L=1.07E-6 W=5.37E-6
T23 (net18 net108 net108 0) nfet L=8.45E-6 W=6.63E-6
T24 (net47 net46 net46 0) pfet L=5.41E-6 W=3.23E-6
R25 (net96 net103) R=3.7E4
T26 (net59 net56 net56 0) nfet L=3.68E-6 W=3.69E-6
R27 (vdd! net36) R=0.3E4
C28 (net40 net109) C=9.8E-12
T29 (net3 net22 net22 0) pfet L=7.69E-6 W=9.73E-6
C30 (vdd! net20) C=0.5E-5
C31 (net56 0) C=5.0E-11
C32 (net114 net88) C=2.3E-10
C33 (net62 net101) C=6.8E-6
C34 (net3 net101) C=2.0E-11
R35 ( net121 net75)  R=4.3E6
T36 ( net75 net85 vdd! vdd!)  pfet  L=0.19E-6 W=1.84E-6
T37 ( net78 net85 vdd! vdd!)  pfet  L=0.19E-6 W=1.84E-6
T38 ( 0 net75 net85 vdd!)  pfet  L=0.19E-6 W=1.84E-6
C39 (net48 net92) C=6.7E-10
T40 (vdd! net53 net53 0) pfet L=3.26E-6 W=1.63E-6
C41 (net10 net116) C=4.1E-11
R42 (net46 net16) R=8.2E1
R43 (net25 net17) R=9.6E4
R44 ( net1 net25)  R=8.2E0
T45 ( net25 net63 vdd! vdd!)  pfet  L=2.00E-6 W=5.45E-6
T46 ( net69 net63 vdd! vdd!)  pfet  L=2.00E-6 W=5.45E-6
T47 ( net26 net25 net69 vdd!)  pfet  L=2.00E-6 W=5.45E-6
T48 (net4 net30 net30 0) nfet L=5.08E-6 W=8.97E-6
T49 (net8 net43 net43 0) pfet L=2.81E-6 W=5.71E-6
T50 (net76 0 0 0) pfet L=9.82E-6 W=9.90E-6
C51 (net18 net65) C=2.6E-11
R52 (net3 net76) R=9.8E5
R53 (net103 net87) R=9.9E4
R54 (0 net59) R=5.9E6
T55 (net110 net29 net29 0) nfet L=0.87E-6 W=3.66E-6
C56 (net10 net1) C=1.3E-12
R57 (net24 net80) R=6.7E1
T58 (net44 net39 net39 0) pfet L=3.00E-6 W=8.10E-6
T59 (net14 net41 net41 0) pfet L=9.14E-6 W=9.82E-6
T60 (net58 net45 net45 0) nfet L=2.34E-6 W=9.02E-6
T61 (net24 net77 net77 0) pfet L=0.81E-6 W=8.75E-6
C62 (net109 0) C=6.7E-7
T63 (net55 vdd! vdd! 0) pfet L=1.94E-6 W=6.06E-6
T64 (net33 net38 net38 0) pfet L=8.26E-6 W=2.33E-6
R65 (net71 net99) R=6.2E6
T66 (net118 net103 net103 0) pfet L=9.18E-6 W=3.78E-6
T67 (net119 net82 net82 0) nfet L=5.18E-6 W=3.14E-6
T68 (net41 net119 net119 0) pfet L=4.71E-6 W=4.40E-6
C69 (net36 net95) C=4.7E-13
T70 (net88 vdd! vdd! 0) nfet L=8.73E-6 W=3.50E-6
R71 (net26 net114) R=0.8E6
T72 (net2 net49 net49 0) pfet L=3.88E-6 W=6.84E-6
C73 (net91 net89) C=9.2E-5
R74 (net18 net50) R=8.7E3
R75 (net38 net108) R=5.1E1
C76 (net35 net28) C=5.5E-6
T77 (net9 net2 net2 0) nfet L=4.30E-6 W=5.98E-6
C78 (net17 net44) C=2.5E-7
R79 (net74 net58) R=0.6E4
T80 (net32 net53 net53 0) pfet L=9.00E-6 W=5.03E-6
R81 (net49 net24) R=9.1E6
R82 (net122 net98) R=6.6E6
T83 (vdd! net55 net55 0) pfet L=7.35E-6 W=9.03E-6
T84 (net50 0 0 0) nfet L=6.60E-6 W=4.92E-6
T85 (net35 net32 net32 0) pfet L=6.98E-6 W=7.51E-6
C86 (net111 net70) C=8.1E-14
T87 (net36 net33 net33 0) pfet L=8.08E-6 W=1.86E-6
T88 (net8 0 0 0) pfet L=8.58E-6 W=5.73E-6
R89 (net67 net47) R=1.3E5
C90 (net40 net45) C=5.9E-14
T91 (net27 0 0 0) nfet L=7.10E-6 W=5.55E-6
R92 (net19 net103) R=0.5E4
T93 (net92 net64 net64 0) pfet L=5.30E-6 W=6.74E-6
R94 (net113 net12) R=4.8E0
T95 (net96 net67 net67 0) nfet L=8.46E-6 W=2.01E-6
R96 (net37 net31) R=1.7E5
T97 (net122 net14 net14 0) nfet L=2.38E-6 W=8.25E-6
T98 (net79 net11 net11 0) nfet L=4.23E-6 W=8.53E-6
R99 (0 net52) R=5.5E5
T100 (net31 net113 net113 0) nfet L=8.39E-6 W=2.50E-6
R101 (net2 net36) R=3.6E4
R102 (net38 net67) R=5.7E1
T103 (net50 net115 net115 0) nfet L=2.43E-6 W=4.52E-6
R104 (net106 net102) R=7.0E0
C105 (net81 net104) C=2.5E-11
R106 (net107 net64) R=4.7E2
R107 (net51 net97) R=1.0E0
C108 (net14 net108) C=1.4E-11
C109 (net21 vdd!) C=2.2E-8
R110 (net41 net58) R=3.7E2
T111 (net47 net31 net31 0) nfet L=2.52E-6 W=5.40E-6
C112 (net99 0) C=4.6E-10
R113 (net74 net111) R=6.7E4
R114 (net50 net92) R=1.4E1
T115 (net96 net112 net112 0) pfet L=3.45E-6 W=9.37E-6
C116 (net122 net50) C=6.4E-5
C117 (net96 net8) C=0.7E-12
R118 (net92 net21) R=0.8E0
T119 (net52 net56 net56 0) nfet L=3.16E-6 W=2.52E-6
R120 (net28 vdd!) R=6.6E2
T121 (net103 net40 net40 0) nfet L=7.22E-6 W=4.04E-6
T122 (net29 net18 net18 0) pfet L=2.35E-6 W=5.86E-6
C123 (net109 net72) C=2.1E-5
T124 (net14 net80 net80 0) pfet L=4.47E-6 W=3.55E-6
R125 (net46 net83) R=7.5E5
T126 (net105 net15 net15 0) pfet L=7.37E-6 W=1.62E-6
T127 (net95 net120 net120 0) pfet L=3.24E-6 W=1.55E-6
T128 (net107 net82 net82 0) pfet L=1.24E-6 W=5.00E-6
T129 (0 net89 net89 0) nfet L=9.45E-6 W=1.39E-6
T130 (net55 net83 net83 0) pfet L=0.15E-6 W=0.80E-6
R131 (net17 net2) R=2.3E1
C132 (net40 net104) C=3.6E-5
T133 (net47 net122 net122 0) nfet L=6.45E-6 W=0.56E-6
T134 (net64 net59 net59 0) nfet L=4.35E-6 W=6.14E-6
R135 (net52 net4) R=5.0E1
T136 (net72 net99 net99 0) pfet L=8.10E-6 W=9.09E-6
T137 (net7 net81 net81 0) pfet L=2.17E-6 W=0.50E-6
T138 (0 net107 net107 0) nfet L=2.20E-6 W=0.82E-6
R139 (0 net43) R=1.4E1
T140 (net74 net28 net28 0) pfet L=2.10E-6 W=6.32E-6
R141 (net3 net56) R=9.4E0
C142 (net97 net71) C=6.8E-6
C143 (net74 net115) C=3.6E-9
C144 (net28 net90) C=9.4E-13
R145 (net54 net40) R=0.2E4
R146 (net80 net103) R=8.8E4
C147 (net49 net83) C=6.5E-9
T148 (net118 net18 net18 0) pfet L=9.73E-6 W=7.17E-6
T149 (net82 net18 net18 0) nfet L=0.53E-6 W=9.23E-6
C150 (net117 net78) C=0.8E-13
R151 (net80 net67) R=9.1E5
R152 (net66 0) R=4.8E1
R153 (net79 net107) R=9.5E5
T154 (net26 net114 net114 0) nfet L=3.52E-6 W=7.45E-6
R155 (vdd! net32) R=3.9E3
R156 (net107 net54) R=8.1E3
T157 (net97 net71 net71 0) pfet L=4.34E-6 W=3.03E-6
C158 (net40 vdd!) C=7.9E-5

