R1 ( net3 net31)  R=5.5E6
T2 ( net31 net31 vdd! vdd!)  pfet  L=3.66E-6 W=7.39E-6
T3 ( net13 net31 vdd! vdd!)  pfet  L=3.66E-6 W=7.39E-6
T4 (net28 net26 net26 0) pfet L=7.68E-6 W=4.23E-6
T5 (net22 net24 net24 0) pfet L=4.59E-6 W=1.97E-6
C6 (net19 net41) C=2.6E-10
T7 (net12 net22 net22 0) nfet L=9.69E-6 W=8.74E-6
R8 ( net13 net35)  R=8.9E5
T9 ( net35 net22 vdd! vdd!)  pfet  L=0.64E-6 W=0.65E-6
T10 ( net28 net22 vdd! vdd!)  pfet  L=0.64E-6 W=0.65E-6
T11 ( 0 net35 net22 vdd!)  pfet  L=0.64E-6 W=0.65E-6
R12 (net26 0) R=3.5E4
C13 (net45 net15) C=7.3E-12
C14 (net44 0) C=6.3E-11
T15 (net33 net16 net16 0) pfet L=8.98E-6 W=1.79E-6
T16 (net40 net5 net5 0) pfet L=5.29E-6 W=9.97E-6
T17 (net8 net34 net34 0) pfet L=8.71E-6 W=7.63E-6
R18 (net34 net16) R=5.1E4
T19 (net30 0 0 0) pfet L=5.22E-6 W=3.53E-6
R20 (net46 net10) R=7.3E1
T21 (net48 net16 net16 0) nfet L=6.76E-6 W=2.94E-6
T22 (net29 vdd! vdd! 0) pfet L=6.36E-6 W=2.02E-6
C23 (net32 net40) C=0.1E-13
C24 (net16 net33) C=3.0E-12
C25 (net38 net45) C=7.4E-13
T26 (net20 net33 net33 0) nfet L=3.83E-6 W=5.28E-6
R27 (net11 net47) R=0.2E1
R28 (net42 vdd!) R=4.2E1
C29 (net13 0) C=4.4E-6
C30 (net4 net44) C=7.4E-10
C31 (net20 net17) C=6.8E-6
R32 (net14 net11) R=9.1E3
T33 (net24 net32 net32 0) nfet L=8.58E-6 W=4.71E-6
R34 (net41 vdd!) R=1.4E3
C35 (net34 net1) C=6.9E-14
R36 (net20 net40) R=6.6E4
R37 (net21 net12) R=8.7E5
C38 (net18 net44) C=7.4E-10
C39 (net17 vdd!) C=8.8E-5
R40 (vdd! net15) R=9.6E6
T41 (0 net37 net37 0) nfet L=0.37E-6 W=4.46E-6
T42 (net17 net12 net12 0) pfet L=1.66E-6 W=9.15E-6
T43 (net45 0 0 0) nfet L=8.79E-6 W=4.34E-6
R44 (net19 0) R=1.1E6
T45 (net3 net1 net1 0) pfet L=3.72E-6 W=4.72E-6
T46 (net12 net30 net30 0) nfet L=8.94E-6 W=9.13E-6
C47 (net21 net33) C=0.3E-7
C48 (net6 net8) C=4.9E-11
T49 (net21 net41 net41 0) pfet L=0.81E-6 W=5.68E-6
R50 (vdd! net30) R=4.8E2

