T1 ( net15 net15 0 0)  nfet  L=0.44E-6 W=8.70E-6
T2 ( net3 net15 0 0)  nfet  L=0.44E-6 W=8.70E-6
R3 ( net3 net5)  R=6.3E6
T4 (net10 net1 net1 0) nfet L=7.69E-6 W=5.78E-6
R5 ( net7 net22)  R=9.1E5
T6 ( net22 net11 0 0)  nfet  L=8.92E-6 W=5.10E-6
T7 ( net15 net11 0 0)  nfet  L=8.92E-6 W=5.10E-6
T8 ( net1 net22 net15 0)  nfet  L=8.92E-6 W=5.10E-6
R9 (net2 net4) R=5.0E6
R10 (net7 net6) R=4.9E3
R11 (net17 net20) R=7.5E3
T12 (net23 net5 net5 0) nfet L=5.14E-6 W=7.29E-6
T13 (net7 net14 net14 0) pfet L=5.67E-6 W=7.89E-6
R14 (net2 net4) R=0.5E4
T15 (net21 net9 net9 0) pfet L=3.56E-6 W=9.49E-6
T16 (net16 net19 net19 0) nfet L=4.81E-6 W=8.79E-6
R17 (net19 net20) R=1.4E4
C18 (net12 net8) C=5.7E-12
C19 (net16 net10) C=4.3E-11
T20 (net5 net16 net16 0) pfet L=2.51E-6 W=3.01E-6
T21 (net14 vdd! vdd! 0) pfet L=4.40E-6 W=2.96E-6
C22 (net19 net6) C=9.8E-7
C23 (net13 net18) C=5.8E-14
R24 (net14 net6) R=10.0E0
T25 (net2 net16 net16 0) nfet L=9.92E-6 W=1.40E-6
R26 (net1 vdd!) R=5.1E3
C27 (net9 net17) C=0.5E-11
T28 (net8 net16 net16 0) nfet L=5.30E-6 W=4.49E-6
R29 (net10 net9) R=3.4E5
R30 (net6 net18) R=9.7E4

