R1 ( net5 net3)  R=6.4E0
T2 ( net3 net10 vdd! vdd!)  pfet  L=7.40E-6 W=8.08E-6
T3 ( net13 net10 vdd! vdd!)  pfet  L=7.40E-6 W=8.08E-6
T4 ( net3 net3 net13 vdd!)  pfet  L=7.40E-6 W=8.08E-6
C5 (net1 vdd!) C=7.5E-7
R6 ( net6 net9)  R=0.4E5
T7 ( net9 net9 vdd! vdd!)  pfet  L=8.56E-6 W=7.32E-6
T8 ( net1 net9 vdd! vdd!)  pfet  L=8.56E-6 W=7.32E-6
R9 (net2 net14) R=3.9E6
T10 (net15 net17 net17 0) nfet L=6.75E-6 W=0.79E-6
T11 (net5 net7 net7 0) pfet L=2.11E-6 W=3.83E-6
T12 (net8 net7 net7 0) pfet L=8.24E-6 W=2.08E-6
T13 (vdd! net16 net16 0) nfet L=2.90E-6 W=5.19E-6
T14 (net8 net4 net4 0) pfet L=1.17E-6 W=7.38E-6
R15 (net17 net1) R=5.8E3
C16 (net1 net4) C=1.7E-8
C17 (net2 net16) C=4.7E-12
C18 (vdd! net17) C=6.5E-11
R19 (net1 net4) R=1.4E5
T20 (net5 net4 net4 0) nfet L=0.21E-6 W=2.77E-6
C21 (net17 net7) C=4.9E-8

