R1 ( net14 net8)  R=6.7E3
T2 ( net8 net11 vdd! vdd!)  pfet  L=5.39E-6 W=6.53E-6
T3 ( net17 net11 vdd! vdd!)  pfet  L=5.39E-6 W=6.53E-6
T4 ( net14 net8 net17 vdd!)  pfet  L=5.39E-6 W=6.53E-6
T5 (net16 net10 net10 0) pfet L=6.40E-6 W=8.98E-6
R6 ( net4 net6)  R=6.7E6
T7 ( net6 net15 vdd! vdd!)  pfet  L=8.53E-6 W=1.15E-6
T8 ( net18 net15 vdd! vdd!)  pfet  L=8.53E-6 W=1.15E-6
T9 ( 0 net6 net15 vdd!)  pfet  L=8.53E-6 W=1.15E-6
C10 (net1 net14) C=3.0E-10
T11 (net13 net19 net19 0) pfet L=4.73E-6 W=1.43E-6
R12 (net12 net10) R=6.9E5
R13 (net2 net18) R=1.7E5
R14 (net4 net18) R=0.6E3
R15 (net5 net16) R=3.9E5
T16 (net18 net9 net9 0) pfet L=2.62E-6 W=5.73E-6
C17 (vdd! net14) C=3.2E-6
T18 (net7 net18 net18 0) nfet L=3.09E-6 W=0.62E-6
R19 (net10 net18) R=8.3E1
T20 (net12 net13 net13 0) pfet L=4.33E-6 W=0.24E-6
C21 (net7 vdd!) C=9.0E-10
T22 (net4 net13 net13 0) nfet L=8.42E-6 W=4.40E-6
R23 (net12 vdd!) R=9.5E1
R24 (net5 vdd!) R=9.7E6
T25 (net14 net13 net13 0) nfet L=8.28E-6 W=0.71E-6
T26 (0 net10 net10 0) nfet L=8.79E-6 W=1.12E-6
C27 (net16 net18) C=5.4E-14
T28 (net16 vdd! vdd! 0) pfet L=0.55E-6 W=3.67E-6
R29 (net13 net7) R=9.0E5
T30 (net16 net3 net3 0) nfet L=4.09E-6 W=8.66E-6
T31 (net3 net12 net12 0) pfet L=9.94E-6 W=2.46E-6
R32 (net1 net19) R=2.3E2
T33 (net19 net1 net1 0) nfet L=6.17E-6 W=3.58E-6
R34 (net1 net4) R=6.3E4
C35 (net7 net13) C=9.9E-12
C36 (net7 0) C=8.4E-13
C37 (net5 net13) C=1.8E-13
C38 (net13 net18) C=2.1E-14
C39 (net12 net10) C=0.7E-11
R40 (net18 net4) R=8.8E3
C41 (net16 net12) C=9.0E-11
R42 (net4 net3) R=3.2E4
C43 (net10 vdd!) C=6.1E-13
T44 (net5 net3 net3 0) nfet L=0.83E-6 W=8.29E-6
R45 (net19 net5) R=9.1E3
R46 (0 net5) R=10.0E1
C47 (net9 net5) C=3.1E-10
T48 (net9 net5 net5 0) nfet L=1.23E-6 W=1.69E-6
C49 (net1 net14) C=4.1E-8
C50 (net9 net5) C=6.4E-7
T51 (net9 0 0 0) nfet L=5.78E-6 W=0.78E-6
C52 (net3 net12) C=4.7E-12
R53 (net5 vdd!) R=5.9E1

