T1 (net5 0 0 0) nfet L=7.70E-6 W=6.06E-6
R2 (net4 net2) R=6.4E3
T3 ( net4 net4 0 0)  nfet  L=7.73E-6 W=1.33E-6
T4 ( net5 net4 0 0)  nfet  L=7.73E-6 W=1.33E-6
R5 ( net5 net9)  R=1.3E6
T6 (net10 net11 net11 0) pfet L=1.82E-6 W=4.43E-6
T7 (net13 net2 net2 0) pfet L=7.23E-6 W=1.84E-6
R8 ( net12 net2)  R=9.0E4
T9 ( net2 net2 0 0)  nfet  L=8.53E-6 W=9.92E-6
T10 ( net13 net2 0 0)  nfet  L=8.53E-6 W=9.92E-6
T11 (net9 net8 net8 0) nfet L=5.95E-6 W=7.81E-6
T12 (net7 net11 net11 0) nfet L=6.31E-6 W=1.58E-6
T13 (net1 net4 net4 0) pfet L=6.62E-6 W=8.29E-6
T14 (0 net1 net1 0) nfet L=6.35E-6 W=2.04E-6
T15 (net13 net11 net11 0) nfet L=7.33E-6 W=9.81E-6
C16 (net12 net10) C=5.6E-10

