R1 ( net8 net10)  R=6.1E6
T2 ( net10 net6 0 0)  nfet  L=8.94E-6 W=2.36E-6
T3 ( net5 net6 0 0)  nfet  L=8.94E-6 W=2.36E-6
T4 ( net8 net10 net5 0)  nfet  L=8.94E-6 W=2.36E-6
C5 (net2 net1) C=6.4E-5
R6 ( net4 net9)  R=2.6E0
T7 ( net9 net7 vdd! vdd!)  pfet  L=7.29E-6 W=7.54E-6
T8 ( net8 net7 vdd! vdd!)  pfet  L=7.29E-6 W=7.54E-6
T9 ( net2 net9 net8 vdd!)  pfet  L=7.29E-6 W=7.54E-6
C10 (net1 net2) C=6.8E-8
T11 (net4 net1 net1 0) pfet L=4.94E-6 W=6.50E-6
T12 (net4 net1 net1 0) pfet L=6.64E-6 W=6.23E-6
T13 (net3 net11 net11 0) pfet L=1.66E-6 W=1.53E-6
C14 (net4 net3) C=8.6E-14

