T1 (net11 net6 net6 0) pfet L=3.51E-6 W=6.48E-6
T2 ( net20 net20 vdd! vdd!)  pfet  L=0.18E-6 W=4.70E-6
T3 ( net2 net20 vdd! vdd!)  pfet  L=0.18E-6 W=4.70E-6
R4 ( net2 net23)  R=3.0E6
C5 (net8 net21) C=3.0E-9
R6 (net21 net18) R=2.9E4
R7 ( net5 net24)  R=5.9E5
T8 ( net24 net24 vdd! vdd!)  pfet  L=9.93E-6 W=3.88E-6
T9 ( net25 net24 vdd! vdd!)  pfet  L=9.93E-6 W=3.88E-6
R10 (net7 net25) R=5.6E3
T11 (vdd! net25 net25 0) pfet L=7.27E-6 W=5.09E-6
R12 (net1 net11) R=1.6E3
T13 (net13 net4 net4 0) nfet L=9.81E-6 W=4.89E-6
T14 (net13 net7 net7 0) nfet L=8.53E-6 W=4.21E-6
T15 (net12 net7 net7 0) nfet L=5.35E-6 W=1.37E-6
C16 (net23 net7) C=1.1E-5
T17 (net13 net5 net5 0) pfet L=5.41E-6 W=0.54E-6
T18 (net14 net25 net25 0) pfet L=6.47E-6 W=5.29E-6
R19 (net14 net20) R=6.6E2
C20 (net15 vdd!) C=2.7E-5
T21 (net17 net12 net12 0) nfet L=8.77E-6 W=0.84E-6
T22 (net18 net19 net19 0) nfet L=1.74E-6 W=1.90E-6
T23 (net8 net22 net22 0) nfet L=6.93E-6 W=1.82E-6
R24 (net22 net23) R=8.8E4
C25 (net14 net15) C=9.2E-6
T26 (net7 net11 net11 0) nfet L=5.55E-6 W=9.01E-6
T27 (net25 net17 net17 0) pfet L=0.54E-6 W=1.38E-6
T28 (net15 net25 net25 0) pfet L=6.55E-6 W=7.45E-6

