T1 (net7 vdd! vdd! 0) nfet L=1.72E-6 W=2.88E-6
C2 (net6 net3) C=9.3E-14
C3 (net10 0) C=2.2E-7
R4 ( net5 net4)  R=1.4E5
T5 ( net4 net4 0 0)  nfet  L=7.39E-6 W=3.94E-6
T6 ( net11 net4 0 0)  nfet  L=7.39E-6 W=3.94E-6
T7 (net12 net9 net9 0) nfet L=3.66E-6 W=0.70E-6
R8 ( net6 net3)  R=3.8E3
T9 ( net3 net10 vdd! vdd!)  pfet  L=3.90E-6 W=1.82E-6
T10 ( net2 net10 vdd! vdd!)  pfet  L=3.90E-6 W=1.82E-6
T11 ( net5 net3 net2 vdd!)  pfet  L=3.90E-6 W=1.82E-6
T12 (net12 net5 net5 0) nfet L=0.10E-6 W=2.17E-6
T13 (net8 net1 net1 0) nfet L=9.04E-6 W=9.10E-6
T14 (net8 0 0 0) pfet L=3.38E-6 W=5.78E-6
T15 (net9 net6 net6 0) pfet L=6.53E-6 W=0.66E-6
C16 (net1 net9) C=1.9E-7
T17 (net7 net9 net9 0) nfet L=8.74E-6 W=9.11E-6
C18 (net12 net5) C=1.9E-11
R19 (net9 net1) R=8.6E2
C20 (net9 vdd!) C=1.0E-11
T21 (net7 net11 net11 0) nfet L=1.47E-6 W=0.82E-6
C22 (net1 net8) C=9.8E-9
R23 (net8 net6) R=4.4E0
T24 (net5 net12 net12 0) pfet L=2.99E-6 W=4.75E-6
T25 (net12 net1 net1 0) nfet L=6.39E-6 W=6.96E-6
T26 (net6 net7 net7 0) pfet L=3.69E-6 W=9.84E-6
T27 (net12 net7 net7 0) pfet L=9.74E-6 W=4.31E-6
T28 (net5 net11 net11 0) pfet L=8.34E-6 W=7.32E-6
R29 (net6 net7) R=9.3E5
T30 (net9 net7 net7 0) nfet L=5.77E-6 W=3.68E-6
T31 (net11 net5 net5 0) nfet L=1.41E-6 W=2.78E-6
R32 (net12 net8) R=2.2E6
R33 (net9 net8) R=7.0E4
R34 (net11 net9) R=1.4E6
R35 (net12 net1) R=5.4E2
C36 (net7 net11) C=8.2E-13
C37 (net9 net7) C=9.6E-14
C38 (net1 vdd!) C=1.7E-5
T39 (vdd! net9 net9 0) pfet L=3.45E-6 W=3.55E-6
R40 (net11 net9) R=6.2E2
T41 (net8 net6 net6 0) pfet L=2.84E-6 W=6.08E-6
C42 (net7 net8) C=2.5E-5
R43 (net5 net8) R=2.8E6
T44 (net7 net12 net12 0) pfet L=8.09E-6 W=3.41E-6
T45 (vdd! net5 net5 0) nfet L=5.22E-6 W=9.28E-6
R46 (net8 net12) R=7.5E5
C47 (net6 net11) C=2.7E-11
R48 (net9 net5) R=9.5E1
R49 (net8 net6) R=8.9E2
T50 (net9 net1 net1 0) nfet L=0.58E-6 W=5.78E-6
T51 (net1 net5 net5 0) pfet L=7.46E-6 W=5.34E-6
R52 (net8 net5) R=1.8E4
T53 (net7 net7 net7 0) pfet L=5.79E-6 W=4.45E-6
T54 (net7 net6 net6 0) pfet L=6.67E-6 W=0.32E-6

