R1 ( net13 net3)  R=3.2E0
T2 ( net3 net6 0 0)  nfet  L=6.30E-6 W=9.73E-6
T3 ( net10 net6 0 0)  nfet  L=6.30E-6 W=9.73E-6
T4 ( vdd! net3 net10 0)  nfet  L=6.30E-6 W=9.73E-6
T5 (net17 net15 net15 0) nfet L=6.27E-6 W=4.74E-6
R6 (net2 net13) R=6.4E4
R7 ( net13 net7)  R=5.6E1
T8 ( net7 net7 net4 vdd!)  pfet  L=7.60E-6 W=7.57E-6
T9 ( net4 net15 vdd! vdd!)  pfet  L=7.60E-6 W=7.57E-6
T10 ( net15 net15 vdd! vdd!)  pfet  L=7.60E-6 W=7.57E-6
T11 ( net5 net7 net15 vdd!)  pfet  L=7.60E-6 W=7.57E-6
T12 (net14 net11 net11 0) pfet L=4.01E-6 W=7.83E-6
T13 (net1 net12 net12 0) pfet L=3.34E-6 W=5.05E-6
T14 (vdd! net17 net17 0) nfet L=6.48E-6 W=2.18E-6
T15 (net16 net1 net1 0) pfet L=5.89E-6 W=2.21E-6
C16 (net13 net14) C=6.5E-9
C17 (net1 net8) C=9.2E-13
T18 (net16 net17 net17 0) pfet L=9.83E-6 W=0.96E-6
T19 (net5 net14 net14 0) pfet L=0.66E-6 W=2.95E-6
T20 (net2 net12 net12 0) pfet L=5.58E-6 W=6.18E-6
T21 (net12 net14 net14 0) pfet L=6.74E-6 W=3.57E-6
R22 (net2 net5) R=9.3E0
C23 (net16 net14) C=2.7E-9
T24 (net9 net2 net2 0) nfet L=9.06E-6 W=4.03E-6
T25 (net2 net11 net11 0) nfet L=5.77E-6 W=3.63E-6
C26 (net14 net13) C=1.4E-14
C27 (0 net13) C=1.4E-9
R28 (net1 net13) R=3.7E6
T29 (net1 net17 net17 0) pfet L=0.13E-6 W=8.95E-6
T30 (net12 vdd! vdd! 0) pfet L=5.22E-6 W=4.78E-6
T31 (net16 net16 net16 0) pfet L=9.79E-6 W=5.88E-6

