R1 ( net3 net10)  R=6.0E4
T2 ( net10 net9 vdd! vdd!)  pfet  L=0.45E-6 W=4.62E-6
T3 ( net7 net9 vdd! vdd!)  pfet  L=0.45E-6 W=4.62E-6
T4 ( 0 net10 net9 vdd!)  pfet  L=0.45E-6 W=4.62E-6
T5 (net8 net1 net1 0) pfet L=6.26E-6 W=6.19E-6
R6 ( net2 net1)  R=2.4E1
T7 ( net1 net1 net7 0)  nfet  L=7.94E-6 W=9.99E-6
T8 ( net7 net5 0 0)  nfet  L=7.94E-6 W=9.99E-6
T9 ( net5 net5 0 0)  nfet  L=7.94E-6 W=9.99E-6
T10 ( net3 net1 net5 0)  nfet  L=7.94E-6 W=9.99E-6
T11 (net2 net3 net3 0) nfet L=7.28E-6 W=5.76E-6
T12 (net4 net8 net8 0) nfet L=5.47E-6 W=2.92E-6
T13 (net6 net2 net2 0) nfet L=9.50E-6 W=1.59E-6
T14 (net4 0 0 0) nfet L=2.53E-6 W=1.41E-6
T15 (net2 net8 net8 0) nfet L=0.45E-6 W=4.80E-6
R16 (net6 0) R=4.5E5
T17 (net2 net6 net6 0) nfet L=9.29E-6 W=4.34E-6
T18 (net6 net6 net6 0) pfet L=2.30E-6 W=2.38E-6
T19 (net8 vdd! vdd! 0) nfet L=9.22E-6 W=4.88E-6
R20 (net4 vdd!) R=2.7E4
R21 (net8 net3) R=7.5E4
T22 (vdd! net4 net4 0) nfet L=2.70E-6 W=6.24E-6
R23 (net8 net6) R=8.9E6
T24 (net6 net8 net8 0) nfet L=1.22E-6 W=7.19E-6
C25 (net4 net8) C=2.2E-9
R26 (vdd! net6) R=9.9E6
R27 (net8 net4) R=1.9E1
T28 (net4 net2 net2 0) nfet L=7.81E-6 W=2.80E-6
C29 (net6 net4) C=2.8E-12

