R1 ( net1 net11)  R=8.8E1
T2 ( net11 net11 vdd! vdd!)  pfet  L=6.03E-6 W=3.96E-6
T3 ( net9 net11 vdd! vdd!)  pfet  L=6.03E-6 W=3.96E-6
T4 (net1 net5 net5 0) nfet L=9.59E-6 W=7.71E-6
T5 (net6 net6 net6 0) nfet L=6.60E-6 W=2.45E-6
R6 (net4 net2) R=4.1E3
C7 (net6 net10) C=5.5E-5
R8 ( net8 net3)  R=1.3E2
T9 ( net3 net4 vdd! vdd!)  pfet  L=7.67E-6 W=3.18E-6
T10 ( net9 net4 vdd! vdd!)  pfet  L=7.67E-6 W=3.18E-6
T11 ( net7 net3 net9 vdd!)  pfet  L=7.67E-6 W=3.18E-6
R12 (vdd! net7) R=0.1E1
C13 (net1 net8) C=1.6E-6
T14 (net10 0 0 0) nfet L=4.11E-6 W=1.46E-6
T15 (net8 net7 net7 0) nfet L=6.98E-6 W=9.96E-6
R16 (net6 net8) R=7.5E3
C17 (net8 net10) C=2.0E-12
T18 (net6 net10 net10 0) nfet L=8.21E-6 W=2.27E-6
T19 (net8 net7 net7 0) nfet L=5.44E-6 W=8.34E-6
T20 (net2 vdd! vdd! 0) pfet L=5.35E-6 W=3.46E-6
T21 (net1 vdd! vdd! 0) pfet L=0.35E-6 W=9.00E-6
C22 (net1 net8) C=3.3E-14
C23 (net1 vdd!) C=0.8E-6
C24 (net8 vdd!) C=8.6E-13
T25 (net8 net6 net6 0) pfet L=9.20E-6 W=6.41E-6
T26 (net10 net7 net7 0) nfet L=6.52E-6 W=5.33E-6
C27 (net5 net8) C=1.2E-5
R28 (net10 net8) R=7.3E1
T29 (net1 net7 net7 0) pfet L=7.86E-6 W=8.38E-6
R30 (net7 net2) R=0.2E1
T31 (net10 net8 net8 0) pfet L=7.60E-6 W=3.56E-6
R32 (net6 net2) R=4.2E1
C33 (0 net2) C=2.3E-10
C34 (net8 net5) C=8.3E-5
C35 (net10 net7) C=0.1E-5
T36 (net6 net10 net10 0) pfet L=7.91E-6 W=5.59E-6
T37 (net7 net10 net10 0) pfet L=9.47E-6 W=5.66E-6
T38 (net2 net2 net2 0) nfet L=5.38E-6 W=9.00E-6
C39 (net7 net1) C=8.6E-7
T40 (net6 net5 net5 0) nfet L=6.30E-6 W=6.64E-6
C41 (net8 0) C=4.1E-5
T42 (net6 net6 net6 0) pfet L=0.19E-6 W=1.52E-6
C43 (net6 net7) C=4.7E-11
T44 (net10 net5 net5 0) pfet L=1.88E-6 W=8.82E-6
T45 (net7 net5 net5 0) nfet L=8.98E-6 W=1.84E-6
C46 (net1 net5) C=8.0E-14

