T1 (net20 net9 net9 0) pfet L=9.33E-6 W=10.00E-6
T2 (net8 0 0 0) nfet L=1.21E-6 W=4.49E-6
T3 (net8 net16 net16 0) nfet L=2.46E-6 W=9.76E-6
T4 (0 net22 net22 0) pfet L=8.67E-6 W=8.28E-6
T5 ( net16 net16 vdd! vdd!)  pfet  L=1.90E-6 W=5.53E-6
T6 ( net25 net16 vdd! vdd!)  pfet  L=1.90E-6 W=5.53E-6
R7 ( net25 net22)  R=6.1E1
R8 (net7 net10) R=9.8E4
R9 ( net22 net28)  R=7.0E2
T10 ( net28 net9 vdd! vdd!)  pfet  L=2.87E-6 W=1.63E-6
T11 ( net17 net9 vdd! vdd!)  pfet  L=2.87E-6 W=1.63E-6
T12 ( net26 net28 net17 vdd!)  pfet  L=2.87E-6 W=1.63E-6
C13 (net2 net11) C=3.9E-9
T14 (net21 net27 net27 0) nfet L=2.51E-6 W=3.27E-6
T15 (net16 net26 net26 0) nfet L=4.55E-6 W=2.15E-6
T16 (net7 net20 net20 0) pfet L=1.57E-6 W=6.87E-6
T17 (0 vdd! vdd! 0) pfet L=7.77E-6 W=1.12E-6
T18 (net19 0 0 0) pfet L=6.51E-6 W=3.46E-6
T19 (net4 net21 net21 0) nfet L=4.14E-6 W=6.66E-6
C20 (net3 net19) C=7.9E-14
C21 (net10 net1) C=9.7E-12
R22 (net6 net12) R=0.8E5
C23 (net4 net14) C=7.1E-8
T24 (0 vdd! vdd! 0) pfet L=9.56E-6 W=3.16E-6
T25 (net23 net16 net16 0) nfet L=2.55E-6 W=0.74E-6
T26 (net5 net7 net7 0) pfet L=6.87E-6 W=5.94E-6
T27 (net10 net4 net4 0) pfet L=4.75E-6 W=6.48E-6
R28 (net13 net6) R=5.9E2
T29 (net15 net10 net10 0) nfet L=8.12E-6 W=0.24E-6
T30 (net8 vdd! vdd! 0) pfet L=1.17E-6 W=6.30E-6
C31 (net7 net8) C=8.7E-8
T32 (net4 net5 net5 0) pfet L=8.75E-6 W=4.60E-6
C33 (net13 net12) C=6.9E-12
C34 (net3 0) C=0.2E-8
T35 (vdd! net16 net16 0) pfet L=3.29E-6 W=4.28E-6
C36 (net11 net16) C=8.9E-14
T37 (net8 net8 net8 0) pfet L=1.19E-6 W=2.89E-6
T38 (net18 net23 net23 0) nfet L=1.83E-6 W=7.50E-6
T39 (net6 net5 net5 0) nfet L=5.77E-6 W=9.57E-6
T40 (net19 net1 net1 0) pfet L=8.11E-6 W=8.68E-6
R41 (net2 vdd!) R=2.9E4
C42 (net23 net27) C=0.7E-10
T43 (net15 0 0 0) nfet L=4.58E-6 W=8.24E-6
T44 (net2 net24 net24 0) pfet L=6.03E-6 W=9.36E-6
T45 (net1 net15 net15 0) nfet L=5.67E-6 W=8.12E-6
T46 (net4 net5 net5 0) nfet L=9.76E-6 W=8.15E-6
T47 (vdd! net5 net5 0) nfet L=9.49E-6 W=5.45E-6
T48 (net13 net18 net18 0) pfet L=4.32E-6 W=6.34E-6
C49 (net20 net3) C=8.1E-12
T50 (net4 net8 net8 0) nfet L=3.66E-6 W=8.27E-6

