R1 ( net1 net18)  R=4.9E5
T2 ( net18 net18 net9 vdd!)  pfet  L=9.49E-6 W=1.26E-6
T3 ( net9 net22 vdd! vdd!)  pfet  L=9.49E-6 W=1.26E-6
T4 ( net22 net22 vdd! vdd!)  pfet  L=9.49E-6 W=1.26E-6
T5 ( net1 net18 net22 vdd!)  pfet  L=9.49E-6 W=1.26E-6
R6 (net25 net17) R=4.5E1
T7 (net19 net7 net7 0) pfet L=2.42E-6 W=5.37E-6
T8 (net10 net10 net10 0) pfet L=1.22E-6 W=2.34E-6
T9 ( net7 net7 0 0)  nfet  L=2.98E-6 W=3.37E-6
T10 ( net16 net7 0 0)  nfet  L=2.98E-6 W=3.37E-6
R11 ( net16 net7)  R=9.0E5
T12 (net15 net19 net19 0) pfet L=4.07E-6 W=9.56E-6
C13 (net17 0) C=2.3E-8
T14 (net12 net12 net12 0) nfet L=0.48E-6 W=3.13E-6
T15 (net21 net10 net10 0) pfet L=3.16E-6 W=9.06E-6
R16 (net12 net31) R=2.4E0
C17 (net12 net13) C=9.6E-14
T18 (net23 net10 net10 0) pfet L=8.93E-6 W=3.35E-6
C19 (net2 0) C=6.1E-14
R20 (net20 net30) R=7.6E2
R21 (net6 net3) R=9.1E5
R22 (net6 net15) R=3.8E4
T23 (net21 net4 net4 0) nfet L=3.99E-6 W=2.13E-6
T24 (net12 net33 net33 0) nfet L=5.85E-6 W=5.52E-6
C25 (net11 vdd!) C=0.5E-12
R26 (net11 net23) R=2.7E2
T27 (net33 net27 net27 0) nfet L=4.28E-6 W=4.50E-6
C28 (net15 net12) C=6.3E-9
T29 (net33 net20 net20 0) pfet L=6.26E-6 W=5.40E-6
C30 (vdd! net24) C=2.8E-7
R31 (net28 net10) R=2.2E3
C32 (0 net25) C=9.1E-5

